US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-3-methylisoxazole-4-carboxamide
Using 3-methylisoxazole-4-carboxylic acid (127 mg, 1.0 mmol), N,N-dimethylformamide (2 drops), tetrahydrofuran (10 mL), oxalyl chloride (0.172 mL, 2.0 mmol), N-methylpyrrolidone (5 mL) and N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (164 mg, 0.50 mmol), and in the same manner as in Example 173, the title compound (143 mg, yield 65%) was obtained.

reactant | 3-methylisoxazole-4-carboxylic acid | 1.0 mmol, 127 mg | CC1=NOC=C1C(=O)O | C5H5NO3
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 2.0 mmol, 0.172 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.50 mmol, 164 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-3-methylisoxazole-4-carboxamide | 143 mg, yield 65% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C=2C(=NOC2)C)F)C1 | C21H17FN6O4
